Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
S/p fall  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with history of dementia who presents after 
fall with neck pain. At approximately 10am, the patient was 
found on the ground after fall from the standing position in the 
bathroom. It was not known how long she was down. The patient 
was found to be ambulatory on the scene, but about four hours 
later began to complain of neck and right hip pain. She had a 
portable x-ray performed which was concerning for a possible 
C4-5 fracture. The patient was immobilized and brought in via 
EMS. The patient denies numbness, tingling or weakness in any of 
her extremities. She denies saddle anesthesia, bowel/bladder 
incontinence, and denies pain anywhere.  

In the ED, initial vital signs were 98, 68, 197/75, 16, 100% RA. 
Labs demonstrated a mild leukocytosis to 15.8k, unremarkable 
chem-7, and mildly elevated CK 496. A UA had small 
leukoesterase, 6 WBC, and few bacteria. A CT C-spine 
demonstrated spinous process fractures of C2 through C6. A CXR, 
XR hip, and CT head were without acute process.  
The patient was seen by Spine who recommended immobility and MRI 
to further assess the fractures; they had no concern for acute 
neurologic involvement.
On the floor, the patient denies pain and is in no acute 
distress.  

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
-Hypertension  
-Dementia  
-GERD  
-Coronary artery disease (MI ___ yrs ago)  
-Basal cell carcinoma  
-Anxiety  
-Insomnia  

 
Social History:
___
Family History:
Unable to ascertain from the patient given dementia.  

 
Physical Exam:
ON ADMISSION:
============================
VS: 98.2, 147/66, 71, 20, 97RA  
GENERAL: lying flat in bed in no acute distress  
HEENT: MMM, poor dentition  
NECK: Supple, cervical collar in place  
CARDIAC: RRR, (+)S1/S2 with SEM greatest at apex, though 
radiating to left carotids  
LUNG: Generally CTA on anterior exam  
ABDOMEN: Soft, non-tender, non-distended  
EXTREMITIES: Warm, well-perfused, no lower extremity edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact by testing, strength in ___ extremities 
intact and equal, sensation intact and equal  
SKIN: Warm, well-perfused, no edema  

ON DISCHARGE:
============================
VS: 97.9, 152/74, 61, 18, 96RA 
I/O: 1000/125+incontinent
GENERAL: Alert, oriented x 1 (thinks she is at MIT, ___.
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: ___ J collar in place.
RESP: Clear to auscultation anteriorly. 
CV: RRR, Nl S1, S2, ___ systolic murmur loudest at ULSB.
ABD: +BS, soft, nondistended, nontender to palpation.
GU: no foley
EXT: Warm, well perfused, 2+ pulses, no edema  
NEURO: CNs2-12 intact, motor function grossly normal.
SKIN: No excoriations or rash.
 
Pertinent Results:
ON ADMISSION:
============================
___ 06:35PM BLOOD WBC-15.8* RBC-5.17 Hgb-14.5 Hct-42.9 
MCV-83 MCH-28.1 MCHC-33.9 RDW-14.3 Plt ___
___ 06:35PM BLOOD Glucose-105* UreaN-22* Creat-0.9 Na-141 
K-4.8 Cl-107 HCO3-20* AnGap-19
___ 06:35PM BLOOD CK(CPK)-496*

ON DISCHARGE:
===========================
___ 06:05AM BLOOD WBC-12.1* RBC-4.92 Hgb-14.1 Hct-41.4 
MCV-84 MCH-28.7 MCHC-34.1 RDW-13.9 Plt ___
___ 06:05AM BLOOD Glucose-119* UreaN-26* Creat-0.8 Na-141 
K-3.9 Cl-109* HCO3-21* AnGap-15
___ 06:05AM BLOOD Calcium-9.5 Phos-2.5* Mg-2.0

MISCELLANEOUS LABS:
============================
___ 06:41AM BLOOD VitB12-418
___ 06:41AM BLOOD TSH-2.8

MICROBIOLOGY:
===========================
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

STUDIES:
===========================
CT C-SPINE (___)
Spinous process fractures from C2 through C6. Further imaging 
with MRI is recommended to evaluate for additional ligamentous 
injury.

CT HEAD W/O CONTRAST (___)
1. No evidence of acute intracranial abnormality. 
2. Periapical lucency surrounding a posterior left maxillary 
tooth. 

PELVIC XR (___)
No fracture or dislocation. Mild degenerative changes in the 
hips.

CXR (___)
No acute intrathoracic process.

ECHO (___)
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function (LVEF>65%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets are moderately 
thickened. There is mild aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. An eccentric, 
laterally directed jet of mild to moderate (___) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Mild aortic valve stenosis. Mild-moderate mitral regurgitation. 
Increased PCWP. 

MRI C-SPINE
1. Interspinous soft tissue edema in association with the 
previously described C2 through C6 fractures without evidence of 
ligamentum flavum disruption. Presumably, the anterior portion 
of the interspinous ligaments are intact. 
2. Increased T2/STIR signal within the T1 and T2 vertebral 
bodies could represent nondisplaced acute or subacute fractures 
although there is no evidence of retropulsion or spinal canal 
narrowing. 
3. No evidence of epidural hematoma or spinal cord compression. 
4. Multilevel cervical spondylosis, greatest at the C3-C4 and 
C4-C5 levels, as described. 
 
Brief Hospital Course:
___ with history of dementia who presents from nursing home 
after fall from standing, and found to have multiple cervical 
spinal process fractures, admitted for further evaluation and 
management.  

# CERVICAL SPINOUS PROCESS FRACTURES: The patient was found to 
have fractures of multiple spinous processes without loss of 
vertebral height or displacement. MRI C-spine confirmed 
fractures without disruption of ligaments. She did not have any 
neurologic deficits. Ortho-Spine recommended non-surgical 
management. She will need to wear a ___ J collar at all times 
for ___ weeks. Her pain was controlled with standing Tylenol and 
Tramadol PRN. She will follow up with Ortho-Spine in ___ weeks 
after discharge. 
 
# FALL VERSUS SYNCOPE: The patient reportedly fell from standing 
position while in the bathroom. As the patient was unable to 
provide an accurate history, it is unclear if this was a 
mechanical fall or syncopal episode. Telemetry was notable for 
sinus bradycardia (HR ___. She also had prolonging P-P 
intervals, long PR intervals with occasional 2nd degree type 1 
AV block and intermittent high-grade AV block with pauses as 
long as 7s. The pauses only occurred in the early morning. These 
findings are most consistent with increased vagal tone. It was 
reasoned that these pauses occurred while the patient was 
sleeping as she had no further pauses during the daytime. Her 
heart rate increased appropriately when she worked with physical 
therapy.  She was evaluated by EP and they did NOT recommend PPM 
placement.  Echocardiogram was notable for mild AS, which is 
likely insufficient to cause syncope. Due to concerns for 
hypotension, nifedipine was discontinued. She was started on 
lisinopril, which may be uptitrated as an outpatient. 

# HYPERTENSION: Nifedipine was held during admission due to 
concern for hypotension causing syncope. Due to elevated blood 
pressures, she was started on lisinopril, which may be 
uptitrated as an outpatient.
  
# DEMENTIA:  Per son, the patient has mild cognitive impairment, 
which worsened 6 months ago. Despite dementia, she is quite 
functional and lives in an assisted living facility. During this 
admission she was oriented to name, and occasionally to place. 
She was continued on donepezil. Delirium precautions were 
continued. 

# CAD: She was continued on home aspirin.

# GERD: Continued home omeprazole.

# Depression: Continue home paroxetine. 

TRANSITIONAL ISSUES:
- Follow up with Ortho Spine in ___ weeks after discharge.
- The patient will be required to wear ___ J collar at all 
times except for bathing. Expected length of therapy will be ___ 
weeks.
- Patient found to have dental caries on head CT.
- Should patient continue to have AV block causing syncope, 
consider PPM.
- Contact information: ___ (___) ___, 
___ 
- Code status: Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Hydrocortisone Cream 2.5% 1 Appl TP BID 
4. mupirocin calcium 2 % topical Daily 
5. Nifedical XL (NIFEdipine) 60 mg oral qhs 
6. Omeprazole 20 mg PO DAILY 
7. Acetaminophen 500 mg PO Q8H:PRN pain 
8. Paroxetine 20 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Zolpidem Tartrate 5 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Donepezil 10 mg PO QHS 
4. Omeprazole 20 mg PO DAILY 
5. Paroxetine 20 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Lisinopril 2.5 mg PO DAILY 
8. TraMADOL (Ultram) 25 mg PO Q4H:PRN pain 
9. mupirocin calcium 2 % topical Daily 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
C2-C6 fracture
Sinus bradycardia with intermittent AV block

SECONDARY DIAGNOSIS:
Hypertension 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. You were admitted after a fall. You were found 
to have fractures of several bones in your neck. The orthopedic 
spine doctors saw ___, and recommend you wear a neck brace for 
the next ___ weeks. We monitored your heart rhythm during your 
hospitalization. The cardiac monitor showed pauses, though these 
occurred while you were sleeping and likely did not contribute 
to your fall. We are glad you are feeling better and we wish you 
the best.

Your ___ team
 
Followup Instructions:
___